US05185466
Synthesis of N-acryloyl-N-ethyl-1-amino-1-deoxy-D-galacitol
The N-ethyl-1-amino-1-deoxy-D-galacitol (63 g) is mixed with about 300 ml of water and 1 g of sodium nitrite. Then 100-150 ml of methylene chloride are added, and the solution is cooled in an ice bath. Acryloyl chloride (10% molar excess over the amine) is mixed with the same volume of methylene chloride. Potassium hydroxide, equal to twice the molar amount of acryloyl chloride, is dissolved in water and cooled. To the well stirred two-phase reaction mixture, portions of acryloyl chloride and KOH solutions were added in such a way that the pH remained between 7.5-9.5 (as checked frequently by a narrow range pH paper). After the last additions of acryloyl chloride and KOH solutions, the reaction mixture was further stirred for about one hour (the pH was periodically checked and corrected, if necessary). The two phases were allowed to separate in a separating funnel and the lower organic phase was discarded. The aqueous phase was treated with charcoal and filtered. The filtrate was treated with a combination of ion exchangers either in solution or by passing the filtrate through columns packed with ion exchangers. Thus, to the stirred solution, portions of Amberlite IR-120,H+ and IRA-68 (free base) were added (pH being kept neutral or slightly acid) until the silver reaction for chloride was negative. The resin was then removed, the filtrate treated with activated charcoal and the solution poured into crystallization dishes. Alternatively, the monomer solution was passed through 600 ml of IR-120 and 600 ml of IRA-68, preferentially packed in more than two columns. The solution passed always first through the cationic ion exchanger. A small quantity (several hundred mg) of p-methoxy phenol or sodium nitrite (polymerization inhibitors) were added to the monomer solution. The water evaporated within 1-2 weeks. The monomer appeared as a white solid. The yield was 72%. The monomer was recrystallized from ethanol-acetone, m.p. 80°-84° C. (polymerization).

reactant | N-ethyl-1-amino-1-deoxy-D-galacitol | 63 g | C(C)NC[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C8H19NO5
reactant | sodium nitrite | 1 g | N(=O)[O-].[Na+]
reactant | Acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | Potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
solvent | water | about 300 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100-150 ml | C(Cl)Cl | CH2Cl2
product | N-acryloyl-N-ethyl-1-amino-1-deoxy-D-galacitol | yield was 72% | C(C=C)(=O)N(C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO)CC | C11H21NO6
